US06241964B1
Step 2: (2S,3S)-3-Benzyloxycarbonylamino-1-t-butoxycarbonyl-2-phenylpiperidine
To a solution of (2S,3S)-3-benzyloxycarbonylamino-2-phenylpiperidine (210 mg, 0.68 mmole) in methylene chloride (10 mL) at room temperature was added diisopropylethylamine (0.35 mL, 2.0 mmole) and di-t-butyl dicarbonate (221 mg, 1.0 mmole). The reaction was stirred for 16 hours and an additional aliquot of di-t-butyl dicarbonate (221 mg) was added. After stirring for another 2 days, the reaction was diluted with methylene chloride and quenched by addition of water. The mixture was separated and the aqueous was reextracted with 2 additional aliquots of methylene chloride. The organic layers were successively washed with a portion of brine, dried over sodium sulfate, combined and evaporated. The residue was purified by flash chromatography (50% ethyl acetate in hexanes) to afford 248 mg (90%) of the title compound. NMR (CDCl3): δ 1.30 (s, 9 H), 1.5-1.8 (m, 2 H), 1.8-2.0 (m, 2 H), 3.15 (m, 1 H), 3.9-4.2 (m, 2 H), 4.32 (d, J=9 H), 5.05 (s, 2 H), 5.30 (m, 1 H), 7.2-7.4 (m, 10 H).

reactant | (2S,3S)-3-benzyloxycarbonylamino-2-phenylpiperidine | 0.68 mmole, 210 mg | C(C1=CC=CC=C1)OC(=O)N[C@@H]1[C@@H](NCCC1)C1=CC=CC=C1 | C19H22N2O2
reactant | diisopropylethylamine | 2.0 mmole, 0.35 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | di-t-butyl dicarbonate | 1.0 mmole, 221 mg | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | di-t-butyl dicarbonate | 221 mg | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | methylene chloride | 10 mL | C(Cl)Cl | CH2Cl2
product | (2S,3S)-3-Benzyloxycarbonylamino-1-t-butoxycarbonyl-2-phenylpiperidine | 248 mg, 90% | C(C1=CC=CC=C1)OC(=O)N[C@@H]1[C@@H](N(CCC1)C(=O)OC(C)(C)C)C1=CC=CC=C1 | C24H30N2O4
